US07094801B2
Ex-109D: To a solution of 5-(2,4-dimethoxy-phenyl)-4-isobutyl-4H-[1,2,4]triazole-3-thiol (Ex-109C, 0.1 g, 0.34 mmol) in ethanol (10 mL) was added wet Raney Ni (0.27 g, 4.6 mmol). The suspension of ethanol was refluxed overnight and then passed through a bed of Hyflo Super Gel and diatomaceous earth. The filtrate was concentrated to afford 3-(2,4-dimethoxy-phenyl)-4-isobutyl-4H-[1,2,4]triazole (0.09 g, 100%) as a white solid: 1H NMR (CDCl3) δ 8.15 (s, 1H), 7.34 (d, J=7.8 Hz, 1H), 6.57 (dd, J=7.8, 2.3 Hz, 1H), 6.51 (d, J=2.3 Hz, 1H), 3.85 (s, 3H), 3.75 (s, 3H), 3.62 (d, J=7.5 Hz, 2H), 1.89–1.80 (m, 1H), 0.76 (d, J=6.6 Hz, 6H).

reactant | 5-(2,4-dimethoxy-phenyl)-4-isobutyl-4H-[1,2,4]triazole-3-thiol | 0.34 mmol, 0.1 g | COC1=C(C=CC(=C1)OC)C=1N(C(=NN1)S)CC(C)C | C14H19N3O2S
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Ni | 4.6 mmol, 0.27 g | [Ni] | Ni
product | 3-(2,4-dimethoxy-phenyl)-4-isobutyl-4H-[1,2,4]triazole | 0.09 g, 100% | COC1=C(C=CC(=C1)OC)C1=NN=CN1CC(C)C | C14H19N3O2
